US07696202B2
2-Morpholino-4,6-dichloropyrimidine (2.34 g; 10 mmol) and ethyl glycolate (1.3 g; 12 mmol) were dissolved in tetrahydrofuran (100 mL), and chilled in an ice bath. To the solution was added sodium hydride (300 mg; 12 mmol), and it was stirred overnight at ambient temperature. The solvents were evaporated, and the solid was dissolved in ethyl acetate (200 mL) which was then washed with water (2×100 mL). The organic layer was dried over magnesium sulfate, and evaporated to give (6-chloro-2-morpholin-4-yl-pyrimidin-4-yloxy)-acetic acid ethyl ester (3.16 g).

reactant | 2-Morpholino-4,6-dichloropyrimidine | 10 mmol, 2.34 g | O1CCN(CC1)C1=NC(=CC(=N1)Cl)Cl | C8H9Cl2N3O
reactant | ethyl glycolate | 12 mmol, 1.3 g | C(CO)(=O)OCC | C4H8O3
reactant | sodium hydride | 12 mmol, 300 mg | [H-].[Na+]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | (6-chloro-2-morpholin-4-yl-pyrimidin-4-yloxy)-acetic acid ethyl ester | 3.16 g | C(C)OC(COC1=NC(=NC(=C1)Cl)N1CCOCC1)=O | C12H16ClN3O4
